US08012979B2
(i) [3-(3-Dimethylamino-propoxy)-phenyl]-methanol
Cesium carbonate (15.4 g) was added to a solution of 3-hydroxymethyl-phenol (3 g) in DMF (80 mL). To this mixture was added (3-chloro-propyl)-dimethyl-amine hydrochloride (4 g). The mixture was heated at 80° C. for 20 hours then allowed to cool. The reaction mixture was poured into water and extracted with ethyl acetate.

reactant | Cesium carbonate | 15.4 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 3-hydroxymethyl-phenol | 3 g | OCC=1C=C(C=CC1)O | C7H8O2
reactant | (3-chloro-propyl)-dimethyl-amine hydrochloride | 4 g | Cl.ClCCCN(C)C
reactant | water | O | H2O
solvent | DMF | 80 mL | CN(C)C=O | C3H7NO
product | [3-(3-Dimethylamino-propoxy)-phenyl]-methanol | CN(CCCOC=1C=C(C=CC1)CO)C | C12H19NO2
